US06919353B2
To a solution of 2-mercapto-N-methylimidazole (570 mg, 4.9 mmol) and 4-methanesulfonylbenzyl chloride (1 g, 4,9 mmol) in DMF (10 mL) at 21° C. was added cesium carbonate (0.8 g, 2.5 mmol). After 18 h, the reaction mixture was diluted with water and ethyl acetate. The organic extracts were washed (H2O), (brine), dried (MgSO4), filtered and concentrated to provide the 2-(4-methanesulfonyl-benzylsulfanyl)-1-methyl-1H-imidazole compound as a white solid.

reactant | 2-mercapto-N-methylimidazole | 4.9 mmol, 570 mg | SC=1N(C=CN1)C | C4H6N2S
reactant | 4-methanesulfonylbenzyl chloride | 4,9 mmol, 1 g | CS(=O)(=O)C1=CC=C(CCl)C=C1 | C8H9ClO2S
reactant | cesium carbonate | 2.5 mmol, 0.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-methanesulfonyl-benzylsulfanyl)-1-methyl-1H-imidazole | CS(=O)(=O)C1=CC=C(CSC=2N(C=CN2)C)C=C1 | C12H14N2O2S2
